US06555577B1
(E)-(S)-Ethyl 3-{4-[3-(3′,5′-di-tert-butyl-biphenyl-4-yl)-allyloxy]-phenyl}-2-ethoxy-propionate
The title compound (110 mg, 51%) was prepared as a colourless gum from (E)-3-(3′,5′-di-tert-butyl-biphenyl-4-yl)-prop-2-en-1-ol (127 mg, 0.39 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (99 mg, 0.41 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(3′,5′-di-tert-butyl-biphenyl-4-yl)-prop-2-en-1-ol | 0.39 mmol, 127 mg | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=CC=C(C=C1)/C=C/CO | C23H30O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 0.41 mmol, 99 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 3-{4-[3-(3′,5′-di-tert-butyl-biphenyl-4-yl)-allyloxy]-phenyl}-2-ethoxy-propionate | 110 mg, 51% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=CC=C(C=C1)/C=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC | C36H46O4
